US06486338B1
A solution of 282 g of 4-(4′-hydroxybutoxy)benzoic acid (1.34 mol), 325 ml of freshly distilled methacrylic acid (3.35 mol), 0.3 g of 2,6 di-tert-butyl-4-(dimethylaminomethylene)phenol (Ethanox® 703) and 23.7 g of p-toluenesulfonic acid in 1.1 l of 1,1,1-trichloroethane was refluxed for 10 hours on a water separator. The reaction mixture was cooled to 60° C.-70° C. and stirred into 2.51 of petroleum ether, and the precipitate was filtered off. After washing with petroleum ether, the precipitate was dried under reduced pressure at room temperature for 24 hours, giving 223.7 g of 4-(4′-methacryloxybutoxy)benzoic acid (yield 60%).

reactant | 4-(4′-hydroxybutoxy)benzoic acid | 1.34 mol, 282 g | OCCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
reactant | methacrylic acid | 3.35 mol | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid | 23.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 1,1,1-trichloroethane | 1.1 l | ClC(C)(Cl)Cl | C2H3Cl3
catalyst | 2,6 di-tert-butyl-4-(dimethylaminomethylene)phenol | 0.3 g | C(C)(C)(C)C1=C(C(=CC(C1)=CN(C)C)C(C)(C)C)O | C17H29NO
product | 4-(4′-methacryloxybutoxy)benzoic acid | 223.7 g, yield 60% | C(C(=C)C)(=O)OCCCCOC1=CC=C(C(=O)O)C=C1 | C15H18O5
